US08053440B2
To a solution of 2-amino-4,6-dimethoxy-nicotinamide (1.40 g, 7.1 mmol) and 4-hydroxy-3,5-dimethylbenzaldehyde (1.07 g, 7.1 mmol) in N,N-dimethyl acetamide (20 mL), NaHSO3 (1.39 g, 7.81 mmol) and p-TSA (0.675 g, 3.55 mmol) were added and the reaction mixture was heated at 150° C. overnight. The solvent was removed under reduced pressure. The residue was diluted with water and the solid was collected and further washed with methanol. The crude product was purified by column chromatography (silica gel 230-400 mesh; 2% methanol in CH2Cl2 as eluent) to give 2-(4-hydroxy-3,5-dimethylphenyl)-5,7-dimethoxypyrido[2,3-d]pyrimidin-4(3H)-one (0.92 g, 39.6%). Selected data: MS (ES) m/z: 328.07; MP 297-299° C.

reactant | 2-amino-4,6-dimethoxy-nicotinamide | 7.1 mmol, 1.40 g | NC1=C(C(=O)N)C(=CC(=N1)OC)OC | C8H11N3O3
reactant | 4-hydroxy-3,5-dimethylbenzaldehyde | 7.1 mmol, 1.07 g | OC1=C(C=C(C=O)C=C1C)C | C9H10O2
reactant | NaHSO3 | 7.81 mmol, 1.39 g | OS(=O)[O-].[Na+]
reactant | p-TSA | 3.55 mmol, 0.675 g | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
solvent | N,N-dimethyl acetamide | 20 mL | CN(C(C)=O)C | C4H9NO
product | 2-(4-hydroxy-3,5-dimethylphenyl)-5,7-dimethoxypyrido[2,3-d]pyrimidin-4(3H)-one | 0.92 g, 39.6% | OC1=C(C=C(C=C1C)C=1NC(C2=C(N1)N=C(C=C2OC)OC)=O)C | C17H17N3O4
